US07220856B2
Preparation of 7-Chloro-4-[4-(3,4-difluorophenylaminocarbonyl)piperazin-1-yl]quinoline
7-Chloro-4-(piperazin-1-yl)quinoline (0.16 g, 0.65 mmol) and 3,4-difluorophenyl isocyanate (76 μL, 0.65 mmol) in THF (10 mL) are reacted according to method C yielding the title product as a colorless foam after column chromatography with hexane-EtOAc.

reactant | 7-Chloro-4-(piperazin-1-yl)quinoline | 0.65 mmol, 0.16 g | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | 3,4-difluorophenyl isocyanate | 0.65 mmol, 76 μL | FC=1C=C(C=CC1F)N=C=O | C7H3F2NO
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-Chloro-4-[4-(3,4-difluorophenylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC(=C(C=C1)F)F | C20H17ClF2N4O
